US05442064
1-(4-Aminomethylphenyl)-4-[N-(trans-4-carboxycyclohexyl)-aminocarbonyl]-piperazine
400 mg of 1-(4-aminomethylphenyl)-4-[N-[trans-4-(methoxycarbonyl)-cyclohexyl]-aminocarbonyl]-piperazine-hydrochloride and 3 ml of a 1.4 molar aqueous lithium hydroxide solution in 3 ml of tetrahydrofuran and 2 ml of water is stirred at ambient temperature for 2 hours. Then 3.2 ml of 1N hydrochloric acid are added dropwise and some of the solvent is evaporated off under reduced pressure. The precipitate is suction filtered, triturated with acetone, suction filtered again and dried. Yield: 330 mg (94% of theory), Rf value: 0.47 (silica gel; methylene chloride/methanol/conc. ammonia=2:1:0.25) Mass spectrum: M+ =360

reactant | 1-(4-aminomethylphenyl)-4-[N-[trans-4-(methoxycarbonyl)-cyclohexyl]-aminocarbonyl]-piperazine-hydrochloride | 400 mg | Cl.NCC1=CC=C(C=C1)N1CCN(CC1)C(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | lithium hydroxide | 1.4 molar | [OH-].[Li+]
reactant | hydrochloric acid | 1N, 3.2 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 1-(4-Aminomethylphenyl)-4-[N-(trans-4-carboxycyclohexyl)-aminocarbonyl]-piperazine | NCC1=CC=C(C=C1)N1CCN(CC1)C(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C19H28N4O3
